US07858784B2
Synthesis of N-benzyl-4-methoxyaniline (FIG. 12, Table 8, Entry 2)
Following general procedure D, a mixture of 4-chloroanisole (1.23 mL, 10 mmol), benzylamine (1.52 mL, 14 mmol), NaOt-Bu (1.15 g, 12 mmol), 10 (4 mg, 0.05 mol %), 1 (2.5 mg, 0.05 mol %), and Bu2O (3 mL) was heated to 85° C. for 1 h. The crude product was purified via the Biotage SP4 (silica-packed 25+M; 0-50% EtOAc/hexanes) to provide the title compound as a yellow oil (2.059 g, 97%). 1H NMR (300 MHz, CDCl3) δ: 7.63-7.52 (m, 5H), 7.06 (d, J=9.0 Hz, 2H), 6.81 (d, J=9.0 Hz, 2H), 4.46 (s, 2H), 4.05 (s, 1H), 3.92 (s, 3H) ppm. 13C NMR (75 MHz, CDCl3) δ: 152.6, 143.1, 140.5, 129.2, 128.1, 127.7, 115.4, 114.6, 56.1, 49.5 ppm. IR (neat, cm−1): 3414, 3029, 2832, 1513, 1453, 1235, 1036, 820, 743, 698. Anal. Calcd. for C14H15NO: C, 78.84; H, 7.09. Found: C, 78.61; H, 7.10.

reactant | 4-chloroanisole | 10 mmol, 1.23 mL | ClC1=CC=C(C=C1)OC | C7H7ClO
reactant | benzylamine | 14 mmol, 1.52 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | NaOt-Bu | 12 mmol, 1.15 g | CC(C)(C)[O-].[Na+]
reactant | Bu2O | 3 mL | O(CCCC)CCCC | C8H18O
product | N-benzyl-4-methoxyaniline | 2.059 g, 97% | C(C1=CC=CC=C1)NC1=CC=C(C=C1)OC | C14H15NO
